US07994339B2
(3-3) Production of 4-(1-cyclopropyltetrazol-5-yl)-2-methylaniline (Compound No. 8-1)
0.4 g of 5% palladium carbon was added to a solution of 1.6 g (6.5 mmol) of 4-(1-cyclopropyltetrazol-5-yl)-2-methylnitrobenzene in 70 ml of ethanol and the mixture was stirred under 3 atm hydrogen atmosphere overnight. The reaction mixture was filtered and concentrated under reduced pressure and the residual substance was purified with silica gel column chromatography to obtain 1.0 g of the desired compound.

reactant | 4-(1-cyclopropyltetrazol-5-yl)-2-methylnitrobenzene | 6.5 mmol, 1.6 g | C1(CC1)N1N=NN=C1C1=CC(=C(C=C1)[N+](=O)[O-])C | C11H11N5O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.4 g | [C].[Pd]
product | 4-(1-cyclopropyltetrazol-5-yl)-2-methylaniline | 1.0 g, Yield: 72% | C1(CC1)N1N=NN=C1C1=CC(=C(N)C=C1)C | C11H13N5
